US05447915
EDC (1.68 g, 8.78 mmol) was added to a solution of N-Boc-D-Pro (372 mg, 1.73 mmol) and hydroxybenzotriazole (281 mg, 2.08 mmol) in dry dichloromethane (17.3 ml) and the resulting mixture was stirred at room temperature for 2.5 hours. Distilled triethylamine (482 μl, 3.46 mmol) was then added, followed by the crude trifluoroacetate salt of D-Phe-OBn, prepared as described above. The solution was stirred for an additional 3 hours, diluted with dichloromethane and washed sequentially with a dilute solution of HCl (<5%, pH 3.0), a solution of saturated sodium bicarbonate, and brine. The combined organic layers were dried over MgSO4 and concentrated to obtain a yellow oil. This substance was subjected to silica gel chromatography, eluted with a solution that was 2:1 hexanes:ethyl acetate, and resulted in a yield of 658 mg of N-Boc-D-Pro-D-Phe-OBn as a clear oil.

reactant | EDC | 8.78 mmol, 1.68 g
reactant | N-Boc-D-Pro | 1.73 mmol, 372 mg | N1([C@@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | hydroxybenzotriazole | 2.08 mmol, 281 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | triethylamine | 3.46 mmol, 482 μl | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | D-Phe-OBn | N[C@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C16H17NO2
solvent | dichloromethane | 17.3 ml | ClCCl | CH2Cl2
product | N-Boc-D-Pro-D-Phe-OBn | yield of 658 mg | N1([C@@H](C(=O)N[C@H](CC2=CC=CC=C2)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C26H32N2O5
